US07435837B2
To a solution of (±)-(6-hydroxy-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate (8.67 g, 27.2 mmol) in anhydrous dichloromethane (300 mL) at 0° C. was added diisopropylethylamine (4.22 g, 32.6 mmol) followed by trifluoromethanesulfonic anhydride (8.45 g, 29.9 mmol) and the reaction mixture was allowed to stir at 0° C. for 1 h. The reaction mixture was quenched with water (300 mL) and diluted with dichloromethane (400 mL), The combined organic layers were washed with saturated aqueous sodium chloride, dried (magnesium sulfate), and the solvent removed in vacuo to provide a crude solid. Purification by flash column chromatography (silica, ethyl acetate:hexanes 1:4→2:3) afforded 10.3 g (84%) of (±)-(6-{[(trifluoromethyl)sulfonyl]oxy}-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate as a tan solid. To a solution of (±)-(6-{[(trifluoromethyl)sulfonyl]oxy}-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate (2.0 g, 4.43 mmol) in dioxane (50 mL) was added phenylboronic acid (1.08 g, 8.86 mmol), tetrakis(triphenylphosphine)palladium(0) (1.0 g, 0.884 mmol), and lithium chloride (0.787 g, 17.43 mmol) and the reaction mixture was heated at 90° C. for 12 h. The reaction mixture was cooled to room temperature and diluted with water (500 mL) and ethyl acetate (500 mL). The organic layer was separated and washed with water (200 mL), saturated aqueous sodium chloride (200 mL), dried (magnesium sulfate) and the solvent removed in vacuo to give a crude solid. Purification by flash column chromatography (silica, ethyl acetate:hexanes 1:9) provided 0.170 g (10%) of (±)-(6-phenyl-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate as an oil. 1H NMR (DMSO d6) δH 7.75 (d, 2H); 7.56 (d, 2H); 7.42 (m, 4H); 7.28 (t, 1H); 7.21 (d, 1H); 7.08 (d, 1H); 6.92 (s, 1H); 4.98 (m, 1H); 4.24 (dd, 1H); 4.18 (q, 1H); 3.29 (dd, 1H); 2.88 (dd, 1H); 2.46 (s, 3H).

reactant | (±)-(6-hydroxy-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate | 27.2 mmol, 8.67 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=CC(=C2)O | C16H16O5S
reactant | diisopropylethylamine | 32.6 mmol, 4.22 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | trifluoromethanesulfonic anhydride | 29.9 mmol, 8.45 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | dichloromethane | 300 mL | ClCCl | CH2Cl2
product | (±)-(6-{[(trifluoromethyl)sulfonyl]oxy}-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate | 10.3 g, 84% | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=CC(=C2)OS(=O)(=O)C(F)(F)F | C17H15F3O7S2
